US04728355
A stirred solution of 3.9 grams of mucochloric acid in water is warmed to 8°-100° C., and a mixture of 3.1 grams of hydrazine sulfate and 3.0 grams of sodium acetate is added. A solid is collected by filtration and recrystallized from water to yield 3.0 grams of 4,5-dichloro-3-pyridazone; m.p. 199°-200° C. The reaction is repeated several times.

reactant | mucochloric acid | 3.9 grams | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
reactant | hydrazine sulfate | 3.1 grams | S(=O)(=O)(O)O.NN
reactant | sodium acetate | 3.0 grams | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 4,5-dichloro-3-pyridazone | 3.0 grams | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
